US08048909B2
1-[(4-Fluoro-2-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde
Using 4-fluoro-2-methylbenzenesulfonyl chloride instead of tosyl chloride, a procedure as in Reference Example 4 was performed to synthesize ethyl 1-[(4-fluoro-2-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carboxylate, and procedures as in Reference Examples 5 and 6 were sequentially performed to give the title compound as a pale-yellow oil.

reactant | 4-fluoro-2-methylbenzenesulfonyl chloride | FC1=CC(=C(C=C1)S(=O)(=O)Cl)C | C7H6ClFO2S
reactant | ethyl 1-[(4-fluoro-2-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carboxylate | FC1=CC(=C(C=C1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)C(=O)OCC)C | C20H18FNO4S
product | 1-[(4-Fluoro-2-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde | FC1=CC(=C(C=C1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)C=O)C | C18H14FNO3S
